US08431569B2
Step 5. 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile
1,7-Dichloro-5H-pyrido[4,3-b]indole-4-carbonitrile (5.0 g, 19 mmol), Pd2(dba)3 (0.873 g, 0.954 mmol), BINAP (1.782 g, 2.86 mmol), and sodium tert-butoxide (9.17 g, 95 mmol) were added to a flask. DME (125 ml) was added immediately followed by the addition of (1R)-1-cyclopropyl-2,2,2-trifluoroethanaminium chloride (5.02 g, 28.6 mmol). The reaction mixture was purged with nitrogen for 10 min, and heated at 85° C. overnight. The reaction was diluted with EtOAc, washed with water and brine, dried (magnesium sulfate), concentrated, and purified by flash chromatography to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 12.63 (s, 1H); 8.56 (d, 1H); 8.40 (s, 1H); 7.54 (d, 1H); 7.47 (d, 1H); 7.36 (dd, 1H); 4.78 (m, 1H); 1.56 (m, 1H); 0.73 (m, 1H); 0.62 (m, 1H); 0.52 (m, 1H); 0.37 (m, 1H). LRMS (APCI) calc'd for (C17H12ClF3N4) [M+H]+, 365.1. found 365.0.

reactant | 1,7-Dichloro-5H-pyrido[4,3-b]indole-4-carbonitrile | 19 mmol, 5.0 g | ClC1=NC=C(C=2NC=3C=C(C=CC3C21)Cl)C#N | C12H5Cl2N3
reactant | BINAP | 2.86 mmol, 1.782 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 95 mmol, 9.17 g | CC(C)([O-])C.[Na+]
reactant | (1R)-1-cyclopropyl-2,2,2-trifluoroethanaminium chloride | 28.6 mmol, 5.02 g | [Cl-].C1(CC1)[C@H](C(F)(F)F)[NH3+]
catalyst | Pd2(dba)3 | 0.954 mmol, 0.873 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DME | 125 ml | COCCOC | C4H10O2
product | 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C#N | C17H12ClF3N4
